US05658944
(a) Carbobenzyloxytyramine
Sodium bicarbonate (12.6 g) was dissolved in distilled water (250 ml) and tyramine (20.6 g) added. The resulting suspension was heated to boiling to dissolve the tyramine, then cooled to room temperature. Benzyl chloroformate (25.6 g) was added while stirring and with occasional vigorous shaking. After stirring and shaking for an additional 1.5 hours, the precipitate was filtered off and washed with distilled water. The solid was dissolved in ether (250 ml) and washed with distilled water. The organic layer was dried over MgSO4 and evaporated in vacuo to give a residue which solidified upon cooling. Recrystallization from ether/hexane gave the desired product as colourless crystals, m.p. 96°-98° C.

reactant | Sodium bicarbonate | 12.6 g | C([O-])(O)=O.[Na+]
reactant | tyramine | 20.6 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | Benzyl chloroformate | 25.6 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 250 ml | O | H2O
product | Carbobenzyloxytyramine | C(=O)(OCC1=CC=CC=C1)NCCC1=CC=C(C=C1)O | C16H17NO3
